US08202865B2
Step 2: Methyl 2-chloro-4-cyano-5-fluorobenzoate
Methyl 4-bromo-2-chloro-5-fluorobenzoate (1.80 g; 6.73 mmol; 1 eq.), zinc cyanide (474.13 mg; 4.04 mmol; 0.60 eq.), tris(dibenzylideneacetone)dipalladium(0) (49.30 mg; 0.05 mmol; 0.01 eq.), 1,1′-bis(diphenylphosphino)ferrocene (59.69 mg; 0.11 mmol; 0.02 eq.), zinc (17.60 mg; 0.27 mmol; 0.04 eq.) and zinc acetate (49.39 mg; 0.27 mmol; 0.04 eq.) were put in dry DMF (18 mL). The reaction mixture was purged with N2 and then heated to 90° C. for 12 hours. The reaction mixture was cooled to RT, filtered over a pad of celite and washed with EtOAc. The organic phase was washed with water, brine, dried over MgSO4 and concentrated affording a brown solid. It was purified by washing with EtOH affording the title compound as a beige solid. 1H NMR (DMSO-d6, 300 MHz) δ 8.37-8.35 (d, J=5.86 Hz, 1H), 8-7.97 (d, J=9.18 Hz, 1H), 3.91 (s, 3H).

reactant | Methyl 4-bromo-2-chloro-5-fluorobenzoate | 6.73 mmol, 1.80 g, 1 eq. | BrC1=CC(=C(C(=O)OC)C=C1F)Cl | C8H5BrClFO2
reactant | DMF | 18 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 4.04 mmol, 474.13 mg, 0.60 eq. | [C-]#N.[Zn+2].[C-]#N
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.05 mmol, 49.30 mg, 0.01 eq. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.11 mmol, 59.69 mg, 0.02 eq. | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | zinc | 0.27 mmol, 17.60 mg, 0.04 eq. | [Zn] | Zn
catalyst | zinc acetate | 0.27 mmol, 49.39 mg, 0.04 eq. | C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
product | Methyl 2-chloro-4-cyano-5-fluorobenzoate | ClC1=C(C(=O)OC)C=C(C(=C1)C#N)F | C9H5ClFNO2
